US04684658
A solution of 3-(3-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carboxylic acid (13.3 g) in a mixture of thionyl chloride (19.2 cc), dimethylformamide (0.05 cc) and 1,2-dichloroethane (160 cc) is heated to a temperature of about 70° C. The suspension obtained is kept at a temperature of about 70° C. for 3 hours. The reaction mixture is cooled to a temperature of about 20° C. and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature of about 60° C. The residue is suspended in cyclohexane (300 cc) and the solvent is evaporated off under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature of about 60° C. The same operation is repeated twice. 1-Chloroformyl-3-(3-pyridyl)-5,6,7,8-tetrahydroindolizine hydrochloride (16.3 g) is thus obtained in the form of light green crystals melting at 205° C.

reactant | 3-(3-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carboxylic acid | 13.3 g | N1=CC(=CC=C1)C1=CC(=C2CCCCN12)C(=O)O | C14H14N2O2
reactant | dimethylformamide | 0.05 cc | CN(C=O)C | C3H7NO
reactant | 1,2-dichloroethane | 160 cc | ClCCCl | C2H4Cl2
solvent | thionyl chloride | 19.2 cc | S(=O)(Cl)Cl | Cl2OS
product | 1-Chloroformyl-3-(3-pyridyl)-5,6,7,8-tetrahydroindolizine hydrochloride | 16.3 g | Cl.ClC(=O)C=1C=C(N2CCCCC12)C=1C=NC=CC1 | InChI=1S/C14H13ClN2O.ClH/c15-14(18)11-8-13(10-4-3-6-16-9-10)17-7-2-1-5-12(11)17;/h3-4,6,8-9H,1-2,5,7H2;1H
